US07238808B2
5-[7-Trifluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridin-2-ylamine
The title compound was prepared from 3-ethynyl-7-trifluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.10) (178 mg, 0.5 mmol) and commercially available 6-amino-3-bromo-pyridine (87 mg, 0.5 mmol) according to general procedure II. Obtained as an orange solid (19 mg, 9%). MS (ISP) 447.9 [(M+H)+]; mp 177° C.

reactant | 3-ethynyl-7-trifluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 0.5 mmol, 178 mg | C(#C)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC(=CC=C2)C(F)(F)F | C16H7F6N3
reactant | 6-amino-3-bromo-pyridine | 0.5 mmol, 87 mg | NC1=CC=C(C=N1)Br | C5H5BrN2
product | 5-[7-Trifluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridin-2-ylamine | FC(C1=CC(=NC=2N1N=CC2C#CC=2C=CC(=NC2)N)C2=CC(=CC=C2)C(F)(F)F)(F)F | C21H11F6N5
